US06555584B1
N-[2-[3-(4-Chlorobenzyloxy)benzamido]benzenesulfonyl]acetamide
In a stream of nitrogen and at 0° C., 0.12 ml (1.30 mmol) of acetic anhydride was added to an anhydrous tetrahydrofuran (10 ml) solution containing 500 mg (1.20 mmol) of 3-(4-chlorobenzyloxy)-N-(2-sulfamoylphenyl)benzamide produced in Reference Example 4 and 293 mg (2.40 mmol) of 4-dimethylaminopyridine, the mixture was stirred at room temperature for 1 hour and then the solvent was evaporated under a reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with water, a potassium hydrgensulfate aqueous solution and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was recrystallized from an ethyl acetate-diethyl ether mixed solvent to obtain 290 mg (yield: 52.7%) of the title compound.

reactant | acetic anhydride | 1.30 mmol, 0.12 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(4-chlorobenzyloxy)-N-(2-sulfamoylphenyl)benzamide | 1.20 mmol, 500 mg | ClC1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(N)(=O)=O)C=CC2)C=C1 | C20H17ClN2O4S
catalyst | 4-dimethylaminopyridine | 2.40 mmol, 293 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-[3-(4-Chlorobenzyloxy)benzamido]benzenesulfonyl]acetamide | 290 mg, yield: 52.7% | ClC1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(=O)(=O)NC(C)=O)C=CC2)C=C1 | C22H19ClN2O5S
